US06824709B2
Acetic anhydride (26.2 g) and 88% formic acid (68 g) were added in order to a mixture of 2-acetyl-7-acetoxyfluorene (45 g) and dichloromethane (450 mL). 36M-sulfuric acid (9 mL) was slowly added thereto at 9° C., and then a 34% hydrogen peroxide aqueous solution (25.9 g) was added to obtain a ocherous reaction mixture. This reaction mixture was refluxed for 9 hours by heating, and then it was cooled down to a room temperature and poured into water. The mixture was neutralized with saturated sodium hydrogencarbonate, and then the organic layer was sufficiently washed with 10% sodium hydrogensulfite to remove unreacted peroxide. The separated organic layer was concentrated under reduced pressure, and the resulting residue was purified by means of column chromatography (silica gel, eluting solvent: ethyl acetate) to obtain 2,7-diacetyloxyfluorene (22.5 g) of colorless crystal. Melting point: 167.6-168.3° C.

reactant | Acetic anhydride | 26.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-acetyl-7-acetoxyfluorene | 45 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)OC(C)=O | C17H14O3
reactant | sulfuric acid | 9 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 25.9 g | OO | H2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | formic acid | 68 g | C(=O)O | CH2O2
product | 2,7-diacetyloxyfluorene | 22.5 g | C(C)(=O)OC1=CC=2CC3=CC(=CC=C3C2C=C1)OC(C)=O | C17H14O4
